US08835432B2
2-((S)-1-aminoethyl)-3-(2-(methylsulfonyl)phenyl)quinoxaline-5-carbonitrile
A 5 L three-necked round-bottomed flask equipped with a nitrogen inlet, overhead stirrer and thermocouple was charged with hydrazine hydrate (381 mL, 783 mmol) and EtOH (3.0 L). To the solution was then added 2-((S)-1-(1,3-dioxoisoindolin-2-yl)ethyl)-3-(2-(methylsulfonyl)phenyl)quinoxaline-5-carbonitrile (378 g, 783 mmol) in one portion and heated to 80° C. The reaction was monitored by LC, and deemed complete once the reaction again reached 80° C. The reaction was cooled to room temp (20-21° C.), when DCM (3.0 L) and satd. NaHCO3 solution (600 mL) were added. After phase separation, the organic layer was washed with brine (2×600 mL), concentrated and dried under vacuum and N2 flow for 24 h to afford the product as a light yellow solid 257.7 g with 94.4% LC purity, (no R enantiomer detected) and 93% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.45-8.54 (m, 2H), 8.18 (dt, J=7.7, 1.5 Hz, 1H), 8.05 (dd, J=8.5, 7.4 Hz, 1H), 7.76-8.00 (m, 3H), 3.83-4.03 (m, 1H), 3.25-3.32 (m, 3H), 1.19-1.39 (m, 3H) Mass Spectrum (ESI) m/z=353.0 (M+1).

reactant | hydrazine hydrate | 783 mmol, 381 mL | O.NN
reactant | EtOH | 3.0 L | CCO | C2H6O
reactant | 2-((S)-1-(1,3-dioxoisoindolin-2-yl)ethyl)-3-(2-(methylsulfonyl)phenyl)quinoxaline-5-carbonitrile | 783 mmol, 378 g | O=C1N(C(C2=CC=CC=C12)=O)[C@@H](C)C1=NC=2C=CC=C(C2N=C1C1=C(C=CC=C1)S(=O)(=O)C)C#N | C26H18N4O4S
reactant | NaHCO3 | 600 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 3.0 L | C(Cl)Cl | CH2Cl2
product | 2-((S)-1-aminoethyl)-3-(2-(methylsulfonyl)phenyl)quinoxaline-5-carbonitrile | 257.7 g, 93% yield | N[C@@H](C)C1=NC=2C=CC=C(C2N=C1C1=C(C=CC=C1)S(=O)(=O)C)C#N | C18H16N4O2S
